### PR TITLE
[Merged by Bors] - chore: remove flexible linter suppressions

### PR DESCRIPTION
**Pull request by JJYYY-JJY**
Replace `simp; infer_instance` with explicit proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UniformSpace/Ultra/Constructions.lean [hunk 1]
```diff
@@ -77,15 +77,21 @@ instance IsUltraUniformity.pi {ι : Type*} {X : ι → Type*} [U : Π i, Uniform
...
-set_option linter.flexible false in -- simp followed by infer_instance
 instance IsUltraUniformity.bot [UniformSpace X] [DiscreteUniformity X] : IsUltraUniformity X := by
   have := Filter.hasBasis_principal (SetRel.id (α := X))
   rw [← DiscreteUniformity.eq_principal_setRelId] at this
-  apply mk_of_hasBasis this <;> { simp; infer_instance }
+  apply mk_of_hasBasis this
+  · intro _ _
+    exact inferInstance
+  · intro _ _
+    exact inferInstance
```
Comment (vihdzp) [inline Mathlib/Topology/UniformSpace/Ultra/Constructions.lean]: Perhaps? Same below.
```suggestion
  refine mk_of_hasBasis this fun _ _ ↦ ?_ <;> infer_instance
```

File: Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean [hunk 2]
```diff
@@ -83,13 +83,19 @@ lemma ball_dynEntourage_mem_nhds [UniformSpace X] (h : Continuous T)
   simp only [map_iterate, _root_.ball_preimage]
   exact (h.iterate k).continuousAt.preimage_mem_nhds (ball_mem_nhds (T^[k] x) U_uni)
 
-set_option linter.flexible false in -- simp followed by infer_instance
 instance isRefl_dynEntourage [U.IsRefl] : (dynEntourage T U n).IsRefl := by
-  simp [dynEntourage]; infer_instance
```
Comment (vihdzp) [inline Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean:88]: Would `simpa [dynEntourage] using inferInstance` work? Perhaps using `inferInstanceAs`?

File: Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean [hunk 3]
```diff
@@ -83,13 +83,19 @@ lemma ball_dynEntourage_mem_nhds [UniformSpace X] (h : Continuous T)
...
+  constructor
+  intro z
+  rw [mem_dynEntourage]
+  intro _ _
+  exact U.rfl
```
Comment (chenson2018) [inline Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean]: Would it be nicer to just squeeze the `simp` here? It's only

```suggestion
  simp only [dynEntourage, map_iterate]
  infer_instance
```
so not too long.

File: Mathlib/Topology/UniformSpace/Ultra/Constructions.lean (hunk 1 above)
Comment (chenson2018) [inline Mathlib/Topology/UniformSpace/Ultra/Constructions.lean]: These `simp` seem to not be required at all actually? I.e. this works:

```suggestion
  exact mk_of_hasBasis this inferInstance inferInstance
```

**Review by vihdzp — APPROVED** [review]

**Review by chenson2018 — APPROVED** [review]
Thanks!

File: Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean (hunk 2 above)
Comment (JJYYY-JJY) [reply Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean:88]: I tested `simpa [dynEntourage] using inferInstance` after the rebase. Lean reports `type class instance expected`, and an `inferInstanceAs` version is longer than the current proof. I kept the two-line version suggested by @chenson2018:

```lean
  simp only [dynEntourage, map_iterate]
  infer_instance
```

**Comment by JJYYY-JJY** [comment]
@vihdzp I rebased the branch, resolved the conflict, and CI is green. Could you take another look?

File: Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean [hunk 4]
```diff
@@ -83,13 +83,13 @@ lemma ball_dynEntourage_mem_nhds [UniformSpace X] (h : Continuous T)
   simp only [map_iterate, _root_.ball_preimage]
   exact (h.iterate k).continuousAt.preimage_mem_nhds (ball_mem_nhds (T^[k] x) U_uni)
 
-set_option linter.flexible false in -- simp followed by infer_instance
```
Comment (joneugster) [inline Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean:86]: I think the purpose of this might have been that the "flexible-linter" should be extended to not trigger on `simp; infer_instance`. At least the current pattern seems nicer than doing this manually.

Maybe you could ask on Zulip whether the flexible linter is supposed to flag `simp; infer_instance`?

@grunweg might have more insight.

Comment (JJYYY-JJY) [reply Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean:86]: Asked: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.2340033.3A.20flexible.20linter.20and.20simp.3B.20infer_instance/with/609670874

**Comment by grunweg** [comment]
Hi! I've just commented on the Zulip thread.

**Comment by grunweg** [comment]
As a meta-note, the PR description looks somewhat AI-written to me. (In any case, it's more verbose than it needs to be.) Please don't use LLMs to write comments on Github or Zulip; this is against the rule of this site (and we'd have to delete your comments and/or suspend you temporarily. Thanks!

File: Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean (hunk 4 above)
Comment (JJYYY-JJY) [reply Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean:86]: I've got the answer on zulip, the linter is supposed to flag it, because `simp` can turn a goal from typeclass to non-typeclass. So I think the current version look fine to me.

File: Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean (hunk 2 above)
Comment (joneugster) [reply Mathlib/Dynamics/TopologicalEntropy/DynamicalEntourage.lean:88]: Thanks for asking! The answer received on Zulip was helpful to know

**Review by joneugster — APPROVED** [review]
Thanks for the PR!

I think both changes look nice enough now that I think this is a positive change! I suggest

maintainer merge

**Comment by JJYYY-JJY** [comment]
-awaiting-author

**Comment by JJYYY-JJY** [comment]
-awaiting-zulip

**Review by Vierkantor — APPROVED** [review]
Thanks! 🎉 

bors r+
